US04962115
4.7 Parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide were dissolved in 160 parts of 2-propanone. Then there were added successively 3.2 parts of [(2-pyrazinyl)methyl] methanesulfonate (ester) and 1.7 parts of sodium hydrogen carbonate. The whole was stirred and refluxed for 18 hours while nitrogen gas was introduced. The precipitated product was filtered off and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized twice from acetonitrile, yielding 1.16 parts of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-(2-pyrazinylmethyl)-4-piperidiny]benzamide; mp. 203.5° C. (compound 144).

reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | [(2-pyrazinyl)methyl] methanesulfonate | CS(=O)(=O)OCC1=NC=CN=C1 | C6H8N2O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 2-propanone | CC(C)=O | C3H6O
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-(2-pyrazinylmethyl)-4-piperidiny]benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC2=NC=CN=C2)OC)C=C1Cl)OC | C19H24ClN5O3
